US20010011113A1
2,2′-Methylene-bis[6-(5-phenylsulfonyl-2H-benzotriazol-2-yl)-4-tert-butylphenol]
5-Phenylsulfonyl-2-(2-hydroxy-5-tert-butylphenyl)-2H-benzotriazole (15 g, 0.037 mol), paraformaldehyde (0.63 g, 0.019 mol) and di-n-butylamine (5.0 g, 0.386 mol) are charged to a reactor which is then sealed. The temperature is increased to 110° C. at which time sodium methoxide (0.33 g, 0.0069 mol) is added. The reaction mixture is then heated to 205° C. and held there for three hours, The reaction mass is then cooled to 110° C. and 100 mL of xylenes are added. The reaction mass is neutralized with 10% aqueous hydrochloric acid and the organic phase is twice washed with water. The xylene phase is filtered through a plug of silica gel and is then distilled. The crude Mannich product is recrystallized twice from heptane to yield 8.3 g of the title compound having a melting point of 224-234° C.

reactant | 5-Phenylsulfonyl-2-(2-hydroxy-5-tert-butylphenyl)-2H-benzotriazole | 0.037 mol, 15 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=2C(=NN(N2)C2=C(C=CC(=C2)C(C)(C)C)O)C=C1 | C22H21N3O3S
reactant | paraformaldehyde | 0.019 mol, 0.63 g | C=O | CH2O
reactant | di-n-butylamine | 0.386 mol, 5.0 g | C(CCC)NCCCC | C8H19N
reactant | sodium methoxide | 0.0069 mol, 0.33 g | C[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 2,2′-Methylene-bis[6-(5-phenylsulfonyl-2H-benzotriazol-2-yl)-4-tert-butylphenol] | 8.3 g | C(C1=C(C(=CC(=C1)C(C)(C)C)N1N=C2C(=N1)C=CC(=C2)S(=O)(=O)C2=CC=CC=C2)O)C2=C(C(=CC(=C2)C(C)(C)C)N2N=C1C(=N2)C=CC(=C1)S(=O)(=O)C1=CC=CC=C1)O | C45H42N6O6S2
